Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___ Coronary Artery Bypass Graft x 4 (LIMA to LAD, SVG to 
Diag, SVG to Ramus, SVG to PDA)
 
History of Present Illness:
___ y/o male with known history of coronary artery disease s/p 
stenting in ___ and VF arrest in ___ presented c/o chest pain. 
Admitted in ___ where he underwent a cardiac cath which 
revealed instent restenosis in Ramus, RCA occlusion and LAD 
disease. Referred for surgical revascularization.
 
Past Medical History:
Coronary Artery Disease s/p Percutaneous Coronary Intervention 
with stenting ___, VF arrest ___ s/p AICD placement, Diabetes 
Mellitus, Hypertension, Hypercholesterolemia
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
VS: 70 14 118/52 72" 190#
Gen: Well-developed, well-nourished male in no acute distess
Skin: Warm and dry
HEENT: Unremarkable
Neck: Supple, Full range of motion
Chest: Clear to auscultation
Heart: Regular, rate and rhythm, -murmur
Abd: Soft, non-tender, non-distended, +bowel sounds
Ext: Warm, well-perfused, -edema
Neuro: Alert and oriented x 3, grossly intact

At Discharge:
VS:T:98.7/98.5, BP:101/50,p:62,RR 20, 98% R/A O2SAT, 
FSBS:192-203
Gen: A&O x3,NAD
HEENT:WNL
___
Lungs:CTA
Abd: benign
Ext:(R)open harvest site C/D/I, (L)EVH site C/D/I
Neuro: grossly intact
 
Pertinent Results:
___ Echo: Pre-CPB: Wires from an ICD are seen. No 
spontaneous echo contrast is seen in the left atrial appendage. 
Left ventricular wall thicknesses and cavity size are normal. 
Right ventricular chamber size and free wall motion are normal. 
There are simple atheroma in the descending thoracic aorta. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic regurgitation. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. There is no pericardial effusion. Post-CPB: The patient is 
A-Paced, on low dose Phenylephrine. Normal biventricular 
systolic fxn. No AI. Trace MR ___ TR. ___ intact

___ ___ M  ___  ___ 
Radiology Report CHEST (PA & LAT) Study Date of ___ 9:53 AM 

UNDERLYING MEDICAL CONDITION: 
   ___ year old man s/p CABG  
REASON FOR THIS EXAMINATION:   eval for pleural effusions  
Final Report 
REASON FOR EXAMINATION: Followup of pleural effusion in a 
patient after CABG. 
PA and lateral upright chest radiograph was compared to ___. 
Heart size is stable. The post-sternotomy wires appears intact. 
The 
pacemaker defibrillator lead tip is in the right ventricle. 
The lungs are clear. There is small pleural effusion, bilateral, 
appears to be unchanged compared to the most recent study. No 
evidence of failure is present. Minimal atelectasis seen in the 
lingula. Small left apical 
pneumothorax is seen unchanged. 
___. ___

___ 05:33AM BLOOD WBC-4.9 RBC-2.67* Hgb-8.7* Hct-24.6* 
MCV-92 MCH-32.6* MCHC-35.4* RDW-13.2 Plt ___
___ 12:13PM BLOOD WBC-5.8 RBC-2.83*# Hgb-9.2*# Hct-25.5*# 
MCV-90 MCH-32.4* MCHC-36.0* RDW-13.2 Plt ___
___ 01:42PM BLOOD ___ PTT-35.8* ___
___ 12:13PM BLOOD ___ PTT-27.9 ___
___ 05:33AM BLOOD Glucose-140* UreaN-13 Creat-0.9 Na-137 
Cl-102 HCO3-33*
    

___ 05:23AM BLOOD WBC-5.3 RBC-2.69* Hgb-8.6* Hct-24.5* 
MCV-91 MCH-31.9 MCHC-35.0 RDW-13.2 Plt ___
___ 05:23AM BLOOD Plt ___
___ 01:42PM BLOOD ___ PTT-35.8* ___
___ 05:23AM BLOOD Glucose-127* UreaN-10 Creat-0.8 Na-136 
K-4.6 Cl-99 HCO___* AnGap-9
 
Brief Hospital Course:
Mr. ___ was a same day admit and on ___ he was brought to 
the operating room where he underwent a coronary artery bypass 
graft x 4. Please see operative report for surgical details. In 
summary he had CABG x4 with LIMA-LAD, SVG-Diag, SVG-Ramus, 
SVG-PDA. He tolerated the operation well and following surgery 
he was transferred to the CVICU for invasive monitoring in 
stable condition. He did well in the immediate post-op period 
and was was weaned from sedation, awoke neurologically intact 
and extubated. On post-op day one he was started on 
beta-blockers and diuretics. He remained hemodynamically stable 
and was transferred to the telemetry floor for further care. 
Chest tubes and epicardial pacing wires were removed per 
protocol. He continued to progress and on POD 4 he was 
discharged to home with visiting nurses. ___ follow up 
appointments were advised.

 
Medications on Admission:
Simvastatin 20mg qd, Amlodipine 5mg qd, Ramipril 10mg qd, Toprol 
XL 50mg qd, Niacin 250mg qd, Byetta 5mg bid, Prandin 2mg bid, 
Levemir 15 units qhs, Aspirin 81mg qd, Flovent, Testim 1% patch 
qd, Imdur, Omeprazole 20mg qd
 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
2. Potassium Chloride 10 mEq Tablet Sustained Release Sig: Two 
(2) Tablet Sustained Release PO once a day for 2 weeks.
Disp:*28 Tablet Sustained Release(s)* Refills:*0*
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
5. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed.  
6. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
7. Testosterone 5 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
8. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).
Disp:*1 inhaler* Refills:*2*
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
10. Repaglinide 2 mg Tablet Sig: One (1) Tablet PO twice a day.  

11. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO every ___ 
hours as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
12. Furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day 
for 2 weeks.
Disp:*14 Tablet(s)* Refills:*0*
13. Byetta 5 mcg/0.02 mL Pen Injector Sig: resume preop schedule 
 Subcutaneous twice a day.  
14. Levemir 100 unit/mL Solution Sig: resume pre-oop schedule  
Subcutaneous at bedtime.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease s/p Coronary Artery Bypass Graft x 4
PMH: s/p Percutaneous Coronary Intervention with stenting ___, 
VF arrest ___ s/p AICD placement, Diabetes Mellitus, 
Hypertension, Hypercholesterolemia
 
Discharge Condition:
Good
 
Discharge Instructions:
Please shower daily including washing incisions, no baths or 
swimming 
Monitor wounds for infection - redness, drainage, or increased 
pain 
Report any fever greater than 101 
Report any weight gain of greater than 2 pounds in 24 hours or 5 
pounds in a week 
No creams, lotions, powders, or ointments to incisions 
No driving for approximately one month 
No lifting more than 10 pounds for 10 weeks 
Please call with any questions or concerns ___
 
Followup Instructions:
___